US09227962B2
The mixture of 5-bromoindolin-2-one (530 mg, 2.5 mmol), N,N′-dimethylethylenediamine (44 mg, 0.5 mmol), ethynylbenzene (274 μl, 2.5 mmol), CuI (48 mg, 0.25 mmol), sodium azide (325 mg, 5 mmol) and sodium ascorbate (99 mg, 0.5 mmol) in EtOH (7 ml), H2O (3 ml) was heated to 80° C. for 18 h. All reagents were re-added and heated to 80° C. for 10 h. After confirming the reaction complete, reaction mixture was cooled to room temperature and EtOH was removed under reduced pressure. 20 ml of water was added and filtered. The filtrate was washed with water and hexane and dried under vacuo to give 5-(4-phenyl-1H-1,2,3-triazol-1-yl)indolin-2-one (450 mg).

reactant | 5-bromoindolin-2-one | 2.5 mmol, 530 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | N,N′-dimethylethylenediamine | 0.5 mmol, 44 mg | CNCCNC | C4H12N2
reactant | ethynylbenzene | 2.5 mmol, 274 μl | C(#C)C1=CC=CC=C1 | C8H6
reactant | sodium azide | 5 mmol, 325 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium ascorbate | 0.5 mmol, 99 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | EtOH | 7 ml | CCO | C2H6O
solvent | H2O | 3 ml | O | H2O
catalyst | CuI | 0.25 mmol, 48 mg | [Cu]I
product | 5-(4-phenyl-1H-1,2,3-triazol-1-yl)indolin-2-one | 450 mg | C1(=CC=CC=C1)C=1N=NN(C1)C=1C=C2CC(NC2=CC1)=O | C16H12N4O
